US04833169
12.8 g (50 mmol) of methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester and 5.2 g (80 mmol) of sodium azide are dissolved in 130 ml of dimethyl sulphoxide and stirred at 80° for 1 hour. The reaction mixture is poured onto ice-water and extracted by shaking with diethyl ether. The organic phases are washed twice with saturated sodium chloride solution, dried over magnesium sulphate and concentrated to dryness by evaporation under reduced pressure. 9.7 g of crude, oily 6-methoxyindan-1-ylmethylazide are obtained as residue.

reactant | methanesulphonic acid (6-methoxyindan-1-ylmethyl) ester | 50 mmol, 12.8 g | COC1=CC=C2CCC(C2=C1)COS(=O)(=O)C | C12H16O4S
reactant | sodium azide | 80 mmol, 5.2 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulphoxide | 130 ml | CS(=O)C | C2H6OS
product | 6-methoxyindan-1-ylmethylazide | COC1=CC=C2CCC(C2=C1)CN=[N+]=[N-] | C11H13N3O
